US08455488B2
Synthesis of (S)-tert-butyl 3-amino-4-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-4-oxobutanoate (Compound IV-16)
(S)-tert-Butyl 3-(((9H-fluoren-9-yl)methoxy)carbonylamino)-4-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-4-oxobutanoate (Compound III-16) 18.4 g (27 mmol) and piperidine 22.7 g (270 mmol) were added in DCM (90 ml). The mixture was stirred for 1.5 h at room temperature. The mixture was diluted with DCM (200 ml) and washed with water (150 ml×3). The solution was concentrated in vacuo. The residue was purified by column chromatography on silica gel with PE:EA=50:1 to DCM:MeOH=10:1 to give the title compound 10.3 g, (yield 83%).

reactant | (S)-tert-Butyl 3-(((9H-fluoren-9-yl)methoxy)carbonylamino)-4-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-4-oxobutanoate | 27 mmol, 18.4 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CC(=O)OC(C)(C)C)C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C | C41H48N2O7
reactant | piperidine | 270 mmol, 22.7 g | N1CCCCC1 | C5H11N
reactant | EA | CC(OCC)=O | C4H8O2
reactant | MeOH | CO | CH4O
solvent | DCM | 90 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 3-amino-4-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-4-oxobutanoate | 10.3 g, yield 83% | N[C@@H](CC(=O)OC(C)(C)C)C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C | C26H38N2O5
